US09145354B2
Step 4 To a solution of {(R)-1-[3-(4-amino-3-cyano-benzoyl)-4-chloro-2-fluoro-phenyl]-propyl}-carbamic acid tert-butyl ester (66 mg, 0.15 mmol) in DCM (2 mL) was added 4M HCl in dioxane (0.19 mL, 0.76 mmol, 5 eq.) and the reaction mixture was stirred for 60 hours. The mixture was partitioned between DCM (10 mL) and water (10 mL) made basic with 5M NaOH. The aqueous phase was extracted with further DCM (10 mL) and then the combined organics were dried (MgSO4), filtered and concentrated to give 2-Amino-5-[3-((R)-1-amino-propyl)-6-chloro-2-fluoro-benzoyl]-benzonitrile (46 mg, 0.14 mmol) as a viscous gum.

reactant | {(R)-1-[3-(4-amino-3-cyano-benzoyl)-4-chloro-2-fluoro-phenyl]-propyl}-carbamic acid tert-butyl ester | 0.15 mmol, 66 mg | C(C)(C)(C)OC(N[C@H](CC)C1=C(C(=C(C=C1)Cl)C(C1=CC(=C(C=C1)N)C#N)=O)F)=O | C22H23ClFN3O3
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 0.76 mmol, 0.19 mL, 5 eq. | O1CCOCC1 | C4H8O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-Amino-5-[3-((R)-1-amino-propyl)-6-chloro-2-fluoro-benzoyl]-benzonitrile | 0.14 mmol, 46 mg | NC1=C(C#N)C=C(C=C1)C(C1=C(C(=CC=C1Cl)[C@@H](CC)N)F)=O | C17H15ClFN3O
